US07790741B2
Preparation #I.1: 6-Bromo-3-isobutyl-1,2,4-triazolo[4,3-a]pyridine
A mixture of 5-bromo-2-hydrazinopyridine (1.00 g, 5.00 mmol; Frontier) and isovaleryl chloride (5.50 mL, 45.1 mmol) was heated at reflux for about 3 h. The reaction was cooled to ambient temperature then heptane (5 mL) was added and the reaction was stirred for about 15 min. The mixture was filtered, washing with additional heptane, and suspended in water/DCM (1:1, 20 mL) then added 1N NaOH (3.5 mL). This mixture was stirred for about 15 min. The layers were separated and the aqueous layer was extracted with DCM (2×10 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated to give the title compound (0.86 g, 65%): LC/MS (Table 1, Method b) Rt, =1.87 min; MS m/z: 254.0 (M+H)+.

reactant | 5-bromo-2-hydrazinopyridine | 5.00 mmol, 1.00 g | BrC=1C=CC(=NC1)NN | C5H6BrN3
reactant | isovaleryl chloride | 45.1 mmol, 5.50 mL | C(CC(C)C)(=O)Cl | C5H9ClO
solvent | heptane | 5 mL | CCCCCCC | C7H16
product | 6-Bromo-3-isobutyl-1,2,4-triazolo[4,3-a]pyridine | 0.86 g, 65% | BrC=1C=CC=2N(C1)C(=NN2)CC(C)C | C10H12BrN3
